US06124456
A mixture of 3-(3-oxo-2-thiocarbamoylmethyl-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.50 g) and bromoacetaldehyde diethyl acetal (0.54 ml) in a mixture of methanol (2.5 ml) and chloroform (5 ml) was refluxed for 54 hours. After evaporating the solvent, the residue was chromatographed on silica gel (40 ml) using a mixture of chloroform and ethyl acetate (20:1). The desired fractions were collected and evaporated in vacuo. The residue was recrystallized from a mixture of ethyl acetate and n-hexane to give 3-[3-oxo-2-(2-thiazolylmethyl)-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.23 g) as yellow needles.

reactant | 3-(3-oxo-2-thiocarbamoylmethyl-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.50 g | O=C1N(N=C(C=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)CC(N)=S | C19H15N5OS
reactant | bromoacetaldehyde diethyl acetal | 0.54 ml | C(C)OC(CBr)OCC | C6H13BrO2
solvent | methanol | 2.5 ml | CO | CH4O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[3-oxo-2-(2-thiazolylmethyl)-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.23 g | O=C1N(N=C(C=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)CC=2SC=CN2 | C21H15N5OS
